US05321021
A solution of 0.303 g of 5,6-dihydro-3-hydroxy-2-(m-fluorophenyl )-thiazolo[3,2-a ]thieno[2,3-c ]pyridinium hydroxide (internal salt) and 0.145 ml of 3-butyl-2-one in 5 ml of toluene was heated under reflux for 1 hour. The solvent is evaporated in vacuo and the residue is chromatographed over silica gel with toluene/ethyl acetate (1:1). After recrystallization from ethanol, there was obtained 10-acetyl-4,5-dihydro-8-(m-fluorophenyl)7H-thieno[2,3-a]quinolizin-7-one of m.p. 109°110°.

reactant | 5,6-dihydro-3-hydroxy-2-(m-fluorophenyl )-thiazolo[3,2-a ]thieno[2,3-c ]pyridinium hydroxide | 0.303 g | [OH-].OC1=C(SC2=[N+]1CCC1=C2SC=C1)C1=CC(=CC=C1)F
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 10-acetyl-4,5-dihydro-8-(m-fluorophenyl)7H-thieno[2,3-a]quinolizin-7-one | C(C)(=O)C=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC(=CC=C3)F | C19H14FNO2S
